US07550598B2
(Z)-5-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylamino)-1H-indazol-3(2H)-one
(Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one (0.03 g, 0.1 mmol) was dissolved in ethanol (1.5 mL) and di-tert-butyl 5-amino-3-oxo-1H-indazole-1,2(3H)-dicarboxylate (0.044 g, 0.12 mmol) was added. The reaction mixture was heated to 170° C. using a microwave reactor for 30 minutes. The mixture was concentrated and purified by LC-MS to give the title compound of Example 51. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.51 (t, J=6.95 Hz, 3H) 1.26-1.33 (m, 2H) 2.39 (dd, J=9.09, 3.28 Hz, 2H) 6.41 (s, 1H) 7.38 (dd, J=8.72, 1.64 Hz, 1H) 7.45-7.51 (m, 1H) 7.67-7.73 (m, 2H) 7.90-7.98 (m, 2H) 8.59 (d, J=7.58 Hz, 1H) 10.49 (s, 1H) 11.79 (s, 1H); ESI-MS: m/z calc'd for C22H20N6O2 400.43. found 401.3 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | 0.1 mmol, 0.03 g | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C15H14ClN3O
reactant | di-tert-butyl 5-amino-3-oxo-1H-indazole-1,2(3H)-dicarboxylate | 0.12 mmol, 0.044 g | NC=1C=C2C(N(N(C2=CC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C17H23N3O5
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | (Z)-5-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylamino)-1H-indazol-3(2H)-one | O=C1\C(\C(=NN1)CCC)=C\1/NC2=CC=CC=C2C(=C1)NC=1C=C2C(NNC2=CC1)=O | C22H20N6O2
